US07745641B2
4-Trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone (80.0 mg, 0.135 mmol) was dissolved in acetonitrile (4.8 mL), and the solution was added with tetrakis(triphenylphosphine)palladium (23.4 mg, 0.0203 mmol), copper iodide (10 mg, 0.054 mmol), tetrabutylammonium chloride (150 mg, 0.405 mmol), 3-butyn-1-ol (0.051 mL, 0.68 mmol) and triethylamine (0.96 mL, 0.70 mmol), followed by stirring at room temperature for 40.7 hours under argon atmosphere. The reaction mixture was added with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by preparative thin-layer chromatography (chloroform/methanol=5/1) to obtain 4-(4-hydroxy-1-butynyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidino methyl)indol-2-yl]isoindolinone (35.5 mg, yield 51%).

reactant | 4-Trifluoromethanesulfonyloxy-7-[1-(tert-butoxycarbonyl)-5-(piperidinomethyl)indol-2-yl]isoindolinone | 0.135 mmol, 80.0 mg | FC(S(=O)(=O)OC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O)(F)F | C28H30F3N3O6S
reactant | 3-butyn-1-ol | 0.68 mmol, 0.051 mL | C(CC#C)O | C4H6O
reactant | triethylamine | 0.70 mmol, 0.96 mL | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | acetonitrile | 4.8 mL | C(C)#N | C2H3N
catalyst | tetrabutylammonium chloride | 0.405 mmol, 150 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
catalyst | tetrakis(triphenylphosphine)palladium | 0.0203 mmol, 23.4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.054 mmol, 10 mg | [Cu](I)I
product | 4-(4-hydroxy-1-butynyl)-7-[1-(tert-butoxycarbonyl)-5-(piperidino methyl)indol-2-yl]isoindolinone | 35.5 mg, yield 51% | OCCC#CC1=C2CNC(C2=C(C=C1)C=1N(C2=CC=C(C=C2C1)CN1CCCCC1)C(=O)OC(C)(C)C)=O | C31H35N3O4
